US06596719B1
According to the procedure described in Example 4a) 129 mg 5isopropyl-N-[6-(2-aminoethoxy)-5-(o-methoxyphenoxy)-2-(2-pyrimidinyl)-4-pyrimidinyl]-2-pyridine sulfonamide was reacted with ethanesulfonylchloride to give 130 mg 5-isopropyl-N-[6-(2-(ethanesulfonylamino)-ethoxy)-5-(o-methoxyphenoxy)-2-(2-pyrimidinyl)-4-pyrimidinyl]-2-pyridine sulfonamide. LC-MS: tR=4.54 min, [M+1]+=630.59, [M−1]−=628.69.

reactant | 5isopropyl-N-[6-(2-aminoethoxy)-5-(o-methoxyphenoxy)-2-(2-pyrimidinyl)-4-pyrimidinyl]-2-pyridine sulfonamide | 129 mg | C(C)(C)C=1C=CC(=NC1)S(=O)(=O)NC1=NC(=NC(=C1OC1=C(C=CC=C1)OC)OCCN)C1=NC=CC=N1 | C25H27N7O5S
reactant | ethanesulfonylchloride | C(C)S(=O)(=O)Cl | C2H5ClO2S
product | 5-isopropyl-N-[6-(2-(ethanesulfonylamino)-ethoxy)-5-(o-methoxyphenoxy)-2-(2-pyrimidinyl)-4-pyrimidinyl]-2-pyridine sulfonamide | 130 mg | C(C)(C)C=1C=CC(=NC1)S(=O)(=O)NC1=NC(=NC(=C1OC1=C(C=CC=C1)OC)OCCNS(=O)(=O)CC)C1=NC=CC=N1 | C27H31N7O7S2
